US06864255B2
Oxindole (176 mg, 1.32 mmol) was dissolved in a 1:1 mixture of THF:DMF (4 mL), under N2, at RT. NaH (53 mg of a 60% suspension in mineral oil, 1.32 mmol) was added, which produced a vigorous gas evolution. This mixture was stirred for 30 min at RT, then (4-chloro-[1,3,5]triazin-2-yl)-(3,4,5-trimethoxy-phenyl)amine (156 mg, 0.53 mmol) was added and the reaction was heated to 80° C. for 2 h. The reaction was cooled to RT, partially concentrated under reduced pressure, diluted with EtOAc, then extracted with water. The water extract was back extracted two times with fresh EtOAc. All of the EtOAc extracts were washed with brine, combined, dried over NaSO4, filtered and concentrated. The recovered material was purified by preparative HPLC (5 to 100% CH3CN:H2O (0.1% TFA buffer) over 10 min at 20 mL/min) Crystals formed in the recovered eluant, which were recovered by vacuum filtration, washed with water, and dried under high vacuum giving 3-[4-(3,4,5-trimethoxy-phenylamino)-[1,3,5]triazin-2-yl]-1H-indol-2-ol as a yellow solid: MS m/z=394 [M+H]+. Calc'd for C20H19N5O4: 393.14.

reactant | Oxindole | 1.32 mmol, 176 mg | N1C(CC2=CC=CC=C12)=O | C8H7NO
reactant | DMF | 4 mL | CN(C)C=O | C3H7NO
reactant | NaH | [H-].[Na+]
reactant | (4-chloro-[1,3,5]triazin-2-yl)-(3,4,5-trimethoxy-phenyl)amine | 0.53 mmol, 156 mg | ClC1=NC(=NC=N1)NC1=CC(=C(C(=C1)OC)OC)OC | C12H13ClN4O3
solvent | THF | C1CCOC1 | C4H8O
product | 3-[4-(3,4,5-trimethoxy-phenylamino)-[1,3,5]triazin-2-yl]-1H-indol-2-ol | COC=1C=C(C=C(C1OC)OC)NC1=NC(=NC=N1)C1=C(NC2=CC=CC=C12)O | C20H19N5O4
